US04386100
1'-(3,4-Dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (1.8 g.) was added to a solution of phosphorus oxychloride (0.55 ml.) in N,N-dimethylformamide (20 ml.) and the mixture was stirred at 60° C. for 90 minutes. The solution obtained was then poured into water (150 ml.). The solid which formed was collected by filtration, washed with water, air-dried and then recrystallised twice from ethyl acetate/petrol 60-80 to give 1'-(3,4-dichlorobenzyl)-3-formyl-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (0.6 g.), m.p. 244°-46° C.

reactant | 1'-(3,4-Dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 1.8 g | ClC=1C=C(CN2C(C3(C4=CC=CC=C24)NC(NC3=O)=O)=O)C=CC1Cl | C17H11Cl2N3O3
reactant | phosphorus oxychloride | 0.55 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 150 ml | O | H2O
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1'-(3,4-dichlorobenzyl)-3-formyl-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 0.6 g | ClC=1C=C(CN2C(C3(C4=CC=CC=C24)N(C(NC3=O)=O)C=O)=O)C=CC1Cl | C18H11Cl2N3O4
